US06423704B1
Reflux 4-[1-(2-pyrazol-1-yl-ethyl)-1H-benzoimidazol-2-yl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester (0.71 g, 1.73 mmol) in methanol (15 mL) with hydroiodic acid (57%, 0.5 mL) for 12 hours. Cool, add ether (80 mL) to afford a suspension and stir the suspension for one hour. Collect the solid by filtration and dry to provide 2-[1,4]diazepan-1-yl-1-(2-pyrazol-1-yl-ethyl)-1H-benzoimidazole dihydroiodide (0.81 g).

reactant | 4-[1-(2-pyrazol-1-yl-ethyl)-1H-benzoimidazol-2-yl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 1.73 mmol, 0.71 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCN1N=CC=C1)C=CC=C2 | C22H30N6O2
reactant | hydroiodic acid | 0.5 mL | I | HI
reactant | ether | 80 mL | CCOCC | C4H10O
solvent | methanol | 15 mL | CO | CH4O
product | 2-[1,4]diazepan-1-yl-1-(2-pyrazol-1-yl-ethyl)-1H-benzoimidazole dihydroiodide | 0.81 g | I.I.N1(CCNCCC1)C1=NC2=C(N1CCN1N=CC=C1)C=CC=C2 | InChI=1S/C17H22N6.2HI/c1-2-6-16-15(5-1)20-17(21-10-3-7-18-9-12-21)23(16)14-13-22-11-4-8-19-22;;/h1-2,4-6,8,11,18H,3,7,9-10,12-14H2;2*1H
